** sch_path: /home/noorizad/code/SpiceXplorer/examples/OTA/cascode/ihp-sg13g2/xschem/ota-improved_tb-noise.sch
**.subckt ota-improved_tb-noise
*----------------------------------------------------------*
* Testbench
*----------------------------------------------------------*
Vdd v_dd GND VDD
xota v_dd v_out v_cm net1 net2 v_ena v_ss ota-improved
Vss v_ss GND 0
C1 v_out v_ss CL m=1
Vcm v_cm v_ss dc V_CM
I0 v_dd net2 5u
Venable v_ena v_ss VDD
.save v(v_cm)
.save v(v_out)
.save v(v_ena)
Vin v_cm net1 dc 0 ac 1

*----------------------------------------------------------*
* Technology Library
*----------------------------------------------------------*
.lib cornerMOSlv.lib mos_tt
.lib cornerRES.lib res_typ



.temp 27

*----------------------------------------------------------*
* Control Block
*----------------------------------------------------------*
.control
    echo ==================================
    echo start of Control
    echo ==================================
    option sparse
    set filetype=ascii
    save all

    echo
    echo (A) start of OP
    echo ----------------------------------
    * Operating Point Analysis (not needed in the optimization... could be turned on but it is turned off to save sim time)
    op
    
    echo
    echo "=== POWER CONSUMPTION RESULTS ==="
    * Calculate positive current magnitude (invert the negative sign)
    let idd_total = -i(Vdd)

    * Calculate Power (Current * Voltage)
    * We use the defined parameter 'VDD' or the node voltage 'v(v_dd)'
    let power_total = idd_total * v(v_dd)
    
    print idd_total
    print power_total
    echo "================================="

    remzerovec
    write
    set appendwrite

    echo
    echo (C) start of Noise sim
    echo ----------------------------------
    run
    print inoise_total
    print onoise_total

    echo
    echo SAVING SIMULATION RESULTS IN THE RAW FILE  
    echo NOISE 1 saving the Integrated Noise
    setplot noise1
    * plot inoise_spectrum linplot
    * plot onoise_spectrum linplot
    remzerovec
    write

    echo
    echo NOISE 2 saving the Noise Spectral Density Curves
    setplot noise2
    remzerovec
    write 

    echo ==================================
    echo END of Control
    echo ==================================
    quit 
    * ^ This is needed for spicelib (uncommented)
.endc


*----------------------------------------------------------*
* Parameter Definitions
*----------------------------------------------------------*
.param X_DUT_V_BIAS_1 = 0.6
.param X_DUT_V_BIAS_2 = 0.5

.param X_DUT_M5_L = 5u
.param X_DUT_M5_W = 6u
.param X_DUT_M5_NG = 3

.param X_DUT_M6_L = 5u
.param X_DUT_M6_W = 2u

.param X_DUT_M1M2_L = .5u
.param X_DUT_M1M2_W = 1u

.param X_DUT_M1CM2C_L = .5u
.param X_DUT_M1CM2C_W = 1u

.param X_DUT_M3CM4C_L = .5u
.param X_DUT_M3CM4C_W = 3u

.param X_DUT_M3M4_L = .5u
.param X_DUT_M3M4_W = 3u

.param VDD = 1.5
.param CL = 50f
.param V_CM = 0.8


.param F_NOISE_START=1MEG
.param F_NOISE_STOP=1000MEG


*----------------------------------------------------------*
* ANALYSIS COMMAND (Moved to Netlist)
*----------------------------------------------------------*
* By placing this here, we can use { } expansion directly.
.noise v(v_out) Vin lin 1000 {F_NOISE_START} {F_NOISE_STOP} 1


*----------------------------------------------------------*
* Subcircuit Definition
*----------------------------------------------------------*
* expanding   symbol:  ota-improved.sym # of pins=7
** sym_path: /home/noorizad/code/SpiceXplorer/examples/OTA/cascode/ihp-sg13g2/xschem/ota-improved.sym
** sch_path: /home/noorizad/code/SpiceXplorer/examples/OTA/cascode/ihp-sg13g2/xschem/ota-improved.sch
.subckt ota-improved vdd vout vinp vinn ibias_5u d_ena vss
*.ipin ibias_5u
*.iopin vdd
*.iopin vss
*.ipin vinp
*.ipin vinn
*.opin vout
*.ipin d_ena
XM5 net6 gate vss vss sg13_lv_nmos w=X_DUT_M5_W l=X_DUT_M5_L ng=X_DUT_M5_NG m=1
XM4 net2 gate_p vdd vdd sg13_lv_pmos w=X_DUT_M3M4_W l=X_DUT_M3M4_L ng=1 m=1
XM1 net4 vinp tail vss sg13_lv_nmos w=X_DUT_M1M2_W l=X_DUT_M1M2_L ng=1 m=1
XM2 net5 vinn tail vss sg13_lv_nmos w=X_DUT_M1M2_W l=X_DUT_M1M2_L ng=1 m=1
XM3 net3 gate_p vdd vdd sg13_lv_pmos w=X_DUT_M3M4_W l=X_DUT_M3M4_L ng=1 m=1
XM6 net1 gate vss vss sg13_lv_nmos w=X_DUT_M6_W l=X_DUT_M6_L ng=1 m=1
XMpd5 gate ena_n vss vss sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XMpd3 ena ena_n vss vss sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XMpd4 ena ena_n vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=1
XMpd6 net1 ena gate vss sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM2c vout dp_casc net5 vss sg13_lv_nmos w=X_DUT_M1CM2C_W l=X_DUT_M1CM2C_L ng=1 m=1
XM1c gate_p dp_casc net4 vss sg13_lv_nmos w=X_DUT_M1CM2C_W l=X_DUT_M1CM2C_L ng=1 m=1
XM4c vout gate_pc net2 vdd sg13_lv_pmos w=X_DUT_M3CM4C_W l=X_DUT_M3CM4C_L ng=1 m=1
XM3c gate_p gate_pc net3 vdd sg13_lv_pmos w=X_DUT_M3CM4C_W l=X_DUT_M3CM4C_L ng=1 m=1
XMpd8 gate_p ena vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=1
Vmeas1 tail net6 0
.save i(vmeas1)
XMpd1 ena_n d_ena vss vss sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XMpd2 ena_n d_ena vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=1
Vmeas4 ibias_5u net1 0
.save i(vmeas4)
XMpd11 vout ena_n vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
XMdecoup1 vss gate vss vss sg13_lv_nmos w=8u l=1u ng=4 m=1
XMdecoup3 vdd gate_pc vdd vdd sg13_lv_pmos w=12u l=0.5u ng=4 m=1
V1 vdd gate_pc X_DUT_V_BIAS_2
V2 dp_casc tail X_DUT_V_BIAS_1
.ends

.GLOBAL GND
.end
